US09024019B2
Step A: tert-butyl 4-(tert-butoxycarbonylamino)-6-[(Z)—C-chloro-N-hydroxy-carbonimidoyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate
To a solution of tert-butyl 4-(tert-butoxycarbonylamino)-6-[(E)-hydroxyiminomethyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate (3.20 g, 8.00 mmol) in DMF (11 mL) at room temperature was slowly added N-chlorosuccinimide (“NCS”)) (1.39 g, 10.4 mmol) and the obtained solution was stirred for 20 h at room temperature. After addition of ice water, the mixture was extracted with diethyl ether and the combined organic layers were washed with brine. Drying (Na2SO4) and evaporation under reduced pressure furnished the desired product as a viscous oil which was used as obtained. 1H NMR (400 MHz, CDCl3) 1.48 (s, 9H), 1.62 (s, 9H), 4.60 (s, 2H), 8.05 (s, 1H).

reactant | tert-butyl 4-(tert-butoxycarbonylamino)-6-[(E)-hydroxyiminomethyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate | 8.00 mmol, 3.20 g | C(C)(C)(C)OC(=O)NN1C(N(N=C(C1)/C=N/O)C(=O)OC(C)(C)C)=O | C14H23N5O6
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(tert-butoxycarbonylamino)-6-[(Z)—C-chloro-N-hydroxy-carbonimidoyl]-3-oxo-5H-1,2,4-triazine-2-carboxylate | C(C)(C)(C)OC(=O)NN1C(N(N=C(C1)/C(=N/O)/Cl)C(=O)OC(C)(C)C)=O | C14H22ClN5O6
